US09422331B2
To a 0° C. solution of tert-butyl(2S,3S)-7-bromo-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (130 mg, 351 μmol) and 2-(methylsulfonyl)acetic acid (53.4 mg, 386 μmol) in pyridine (3.51 ml) was added phosphoryl chloride (64.3 μl, 702 μmol). The reaction was stirred at 0° C. for 30 min, then quenched by the addition of H2O and extracted with EtOAc. The combined organic layers were washed with 1 N aq. citric acid, H2O, sat. aq. NaHCO3, and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(2S,3S)-7-bromo-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (161 mg, 94%) as a white solid. MS m/z 512/514 (MNa)+.

reactant | tert-butyl(2S,3S)-7-bromo-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 351 μmol, 130 mg | BrC1=CC2=C(N[C@H]([C@@H](C(N2)=O)NC(OC(C)(C)C)=O)C)C=C1 | C15H20BrN3O3
reactant | 2-(methylsulfonyl)acetic acid | 386 μmol, 53.4 mg | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | phosphoryl chloride | 702 μmol, 64.3 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 3.51 ml | N1=CC=CC=C1 | C5H5N
product | tert-butyl(2S,3S)-7-bromo-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 161 mg, 94% | BrC1=CC2=C(N([C@H]([C@@H](C(N2)=O)NC(OC(C)(C)C)=O)C)C(CS(=O)(=O)C)=O)C=C1 | C18H24BrN3O6S
